* /var/www/htdocs/zone/audio/sim/x-amp.sxsch
*#SIMETRIX
X1 R8_N R4_N X1_vsp V3_N X1_out LF353/NS pinnames: inp inn vsp vsn out
V1 V1_P 0 SIN 750m 1.25 500 -2m 0
X2 R7_P X2_inn X1_vsp V3_N R9_N LF353/NS pinnames: inp inn vsp vsn out
V2 X1_vsp 0 18
R1 R8_N 0 15k
V3 0 V3_N 18
V4 IPROBE1_P V4_N 30
R2 R4_N 0 10k
R3 X1_out Q2_S 1k
V5 Q3_D Q2_S 30
R4 Q2_S R4_N 91k
R5 0 R6_N 1K
R6 Q2_S R6_N 1K
R7 R7_P 0 30k
R8 X2_inn R8_N 10k
R9 V4_N R9_N 1K
R10 V4_N X2_inn 100k
R11 R6_N V4_N 1K
R12 R6_N V3_N 2.2k
R13 Q3_G R9_N 220
X$Q2 Q2_D X1_out Q2_S IRF530 pinnames: D G S
X$Q3 Q3_D Q3_G V4_N IRF530 pinnames: D G S
C1 R8_N V1_P 2.2u  
V$IPROBE1 IPROBE1_P Q2_D 0.0 
.GRAPH IPROBE1#p CurveLabel=IPROBE1
E$Probe1$TP_DIFFPRB 1 0 Q2_S V4_N 1 
.graph 1 Curvelabel = "Diff Probe" nowarn=true yunit="V"
.TRAN 20m

